US07157464B2
Synthesis of 2-(4-Chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-1-[4-(2-fluorophenyl)-piperazin-1-yl]-ethanone
Title compound was prepared following the HATU mediated coupling protocol P, wherein 1-(2-Fluorophenyl)-piperazine and (4-Chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-acetic acid were used as the coupling components, to give the product as a solid: 1H NMR (CDCl3, 400 MHz) 7.02 (m, 4H), 5.00 (s, 2H), 3.80 (m, 2H), 3.70 (m, 2H), 3.53 (m, 2H), 3.25 (m, 2H), 2.30 (s, 3H) ppm; MS (ES) M+Na expected=427.0, found 427.0.

reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 1-(2-Fluorophenyl)-piperazine | FC1=C(C=CC=C1)N1CCNCC1 | C10H13FN2
reactant | (4-Chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-acetic acid | ClC=1C(=NN(C1C)CC(=O)O)C(F)(F)F | C7H6ClF3N2O2
product | 2-(4-Chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-1-[4-(2-fluorophenyl)-piperazin-1-yl]-ethanone | ClC=1C(=NN(C1C)CC(=O)N1CCN(CC1)C1=C(C=CC=C1)F)C(F)(F)F | C17H17ClF4N4O
